US07888536B2
Preparation of octaethylene glycol (HO-dPEG8-OH)
10% Pd/C (11.2 g) was added to MeOH (50 mL) at −15° C. in hydrogenation bottle under agron. BnO-dPEG8-OH (69.0 g, 0.15 mole) was added to the bottle along with MeOH (150 mL). The bottle was placed on the Parr shaker for 17 h at 50 psi of H2. The reaction was monitored by tlc on silica gel plates, eluting with 10% MeOH/CH2Cl2. The reaction is about 50% complete. The reaction was worked up. The reaction mixture was filter through glass fiber, used MeOH as needed to make a clean transfer. The filtrate was concentrated in vacuo to give an oil. A column was prepared with 600 g of silica gel and hexane. The crude product was placed onto column with hexane and minimum of TBME (100 mL). The column was eluted as follows: (2 L) 20% TBME/hexane; (2 L) 50% TBME/hexane; (4 L) TBME; (2 L) 5% MeOH/TBME; (2 L) 10% MeOH/TBME. Like fractions containing product were combined and concentrated in vacuo to give 28.5 g (51% yield). The product was characterized by nmr.

reactant | MeOH | 50 mL | CO | CH4O
reactant | Benzyloctaethylene glycol | 0.15 mole, 69.0 g | C(C1=CC=CC=C1)C(COCCOCCOCCOCCOCCOCCOCCO)O | C23H40O9
reactant | MeOH | 150 mL | CO | CH4O
reactant | hexane | CCCCCC | C6H14
catalyst | Pd/C | 11.2 g | [Pd] | Pd
solvent | TBME | 100 mL | CC(C)(C)OC | C5H12O
product | octaethylene glycol | 51% yield | C(COCCOCCOCCOCCOCCOCCOCCO)O | C16H34O9
